* ============================================================
* Load dump -- ISO 7637-2 pulse 5b (suppressed/clamped) into the
* battery input, same protection stage as transient_clamp.cir
* ============================================================
* Pulse 2a is a 50 us blip. This pulse is up to 400 ms -- four
* orders of magnitude longer. That changes which physical limit
* the TVS hits: pulse 2a is a PEAK CURRENT problem, this is a
* dissipated-ENERGY / thermal problem, and a part that sails
* through 2a can cook on 5b. See the RESULT NOTE.
*
* THE UNRESOLVED QUESTION THIS BLOCK RESTS ON -- read this before
* the numbers below:
*
* Pulse 5b only exists if the alternator's rectifier is a
* suppressed/avalanche type that clamps its own output when the
* battery is disconnected under charge. Nobody has confirmed that
* for THIS genset's alternator, and no datasheet or nameplate has
* been read for it. It was not on the unknowns register when this
* block was written; it is now, as U16 in spec section 8, because a
* question this load-bearing should not live only in a netlist
* comment.
* If the alternator is NOT suppressed, the real event is pulse 5a:
* 65-87 V unclamped (ISO 7637-2:2011 table), a completely different
* and much harder survivability problem that this block does not
* simulate. Spec section 6 (line 441-442) states the input range
* 6-40 V "bounds the clamped load-dump transient" -- that sentence
* is only true under the suppressed-alternator assumption. Settling
* this needs either the alternator's datasheet (look for a
* suppression/avalanche diode bin in its rectifier part number) or
* a scope on the battery terminal during a live disconnect test
* under load -- not a simulation.
*
* Parameters chosen, and why:
*
*   Us* (clamped peak)    40 V    Taken from THIS project's own spec
*                                 (section 6, line 441-442), which already
*                                 assumes the clamped load dump tops out at
*                                 40 V -- this simulation exists to test
*                                 whether that assumption is survivable,
*                                 not to re-derive it. It also sits inside
*                                 the range research memo 06 quotes from a
*                                 secondary source (40-105 V) and above the
*                                 "commonly 35 V" figure often cited
*                                 generically for 12 V suppressed dumps.
*                                 INFERRED for this specific alternator --
*                                 see the note above.
*   Ri (source impedance) 0.5 ohm  Low end of ISO 7637-2:2011 pulse 5's
*                                 0.5-4 ohm range. Lower Ri means more
*                                 fault current for the same clamped
*                                 voltage, so it is the worst case for
*                                 the energy question this block is
*                                 actually about -- same reasoning
*                                 transient_clamp used picking Level IV
*                                 for pulse 2a.
*   td (pulse duration)   400 ms  Top of the standard's 40-400 ms range,
*                                 worst case for absorbed energy.
*   tr (rise time)        5 ms    Bottom of the standard's 5-10 ms range,
*                                 i.e. the faster (worse) of the two.
*   fall time              5 ms   NOT in the standard -- the standard only
*                                 specifies rise time. Mirrored off tr for
*                                 a symmetric trapezoid. INFERRED, and it
*                                 barely matters: td dominates the energy
*                                 integral by two orders of magnitude.
*
* The pulse shape here is a trapezoid (flat top), the same
* simplification transient_clamp used for pulse 2a. The real
* standard's pulse 5 is closer to an exponential decay; td is
* usually defined as the time the pulse stays above 10% of peak.
* A flat top at the FULL peak for the whole 400 ms is therefore
* pessimistic relative to the real waveform shape -- which is the
* right direction to be pessimistic in for a survivability check.
*
* Same TVS as transient_clamp: SMCJ43CA-class, 33 V working,
* 36.7 V breakdown. Reusing it deliberately -- the question this
* block answers is whether the part already chosen for pulse 2a
* also survives 5b, not picking a new part and tuning it to pass.
* ============================================================

* ---- SMCJ43CA, modelled as the bidirectional part it actually is ----
* The "CA" suffix means bidirectional: two avalanche junctions in
* anti-series inside one package. Until 19 Sep 2026 both this block and
* load_dump.cir modelled it as a SINGLE diode, which is correct for a
* positive transient and silently wrong for anything negative -- one
* junction conducts forward at 0.7 V in reverse polarity, so the model
* would have answered a reverse-battery or negative-pulse question
* confidently and wrongly rather than failing visibly.
*
* Split so the WHOLE device still matches the datasheet it stood for,
* not so each junction does: in avalanche one junction breaks down and
* the other is forward-biased, so BV_total = 47.0 + Vf = 47.8 V, and
* the two Rs of 0.50 sum to the 1.0 ohm the datasheet's own
* clamping spec implies ((69.4 - 47.8) / 21.6 A).
*
* PART CHANGED 20 Sep 2026: SMCJ43CA -> SMCJ43CA. The 33CA's 33 V
* standoff sits BELOW the 40 V clamped load dump, so it was forced to
* conduct during a perfectly normal event and had to absorb it --
* that is what load_dump.cir's FAIL was actually telling us. 43CA is
* the smallest standard bin whose standoff (43 V) clears 40 V, and
* smallest matters: clamping voltage rises with the bin, and whatever
* it clamps to is what the reverse-battery FET downstream sees.
*
* SMCJ, not SMBJ -- the 1500 W package rather than the 600 W one, at
* the same standoff. Raising the standoff to fix the load dump costs
* pulse-2a headroom, because the clamp is VBR plus the dynamic drop
* and the dynamic drop is where the package size shows up. In the
* 600 W part this block clamped at 88.6 V against the buck's 100 V
* absolute maximum -- 11% margin, too thin to design to. The 1500 W
* part has half the dynamic resistance and buys that margin back.
.model TVSJ D(Is=1e-12 N=1.6 Rs=0.50 BV=47.0 IBV=1e-3)
.subckt TVSBI a b
* common anode at mid: whichever terminal is positive sees one
* junction in avalanche and one forward, in either direction
DA mid a TVSJ
DB mid b TVSJ
.ends TVSBI

* Source: 13.5 V baseline, 5 ms rise to 40 V, 400 ms flat top,
* 5 ms fall back to baseline, then settle.
Vpulse src 0 PWL(0 13.5  5m 13.5  10m 40  410m 40  415m 13.5  460m 13.5)
Rsrc src bat 0.5

* Ammeter in series with the TVS so its dissipated energy can be
* integrated in the checks -- v(bat)*i(Vamm) is the power into D1.
Vamm bat dtvs 0
XD1  0   dtvs TVSBI
C1   bat 0    10u
Rload bat 0   50

.control
tran 20u 460m
wrdata load_dump.dat v(bat) v(src) i(Vamm)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* MODEL CHANGED 19 Sep 2026, AND THE NUMBERS MOVED WITH IT.
* The TVS was a single diode until this date. The real SMCJ43CA is
* bidirectional -- the "CA" suffix says so -- and it is now modelled
* as the two anti-series junctions it actually contains, split so the
* whole device still matches the same datasheet (see the model block
* above).
*
* That was done to make the negative pulses answerable, not to change
* this block. It changed this block anyway:
*
*                       single diode    bidirectional
*     clamp voltage       38.097 V        38.374 V
*     TVS current          3.04 A          2.48 A
*     average power       116 W            95.3 W
*     energy absorbed      46.4 J          38.2 J
*
* A 0.7% change in clamp voltage moved the energy by 18%. That is not
* a modelling artifact, it is the physics of this particular test: the
* current is set by (Us* - Vclamp)/Rsrc, a difference between 40 V and
* about 38 V, so a small absolute change in the clamp lands on a much
* smaller difference and is amplified roughly 24-fold.
*
* Worth knowing for two reasons. It means this block's energy figure
* is a soft number that will move again when a real part is chosen --
* and it means the FAIL does not depend on it. 38 J against a 0.5 J
* single-pulse rating is still about 76x over. The verdict survived a
* model change that moved its headline number by a fifth, which is
* the more useful thing to know about it.
*
* The TVS clamps to 38.1 V (close to its 36.7 V breakdown, as
* expected -- Us* = 40 V only just exceeds it) and holds there for
* the full 400 ms plateau at a constant 3.04 A. Peak clamp voltage
* stays under the buck's 100 V rating and under 60 V by a wide
* margin -- the VOLTAGE side of this looks fine, the same way it
* did for pulse 2a.
*
* The energy side does not. v(bat)*i(D1) during the plateau is
* ~116 W, continuously, for 400 ms; integrating over the whole
* pulse gives ~46.4 J absorbed by the TVS. SMBJ-series parts (this
* breakdown bin included) are rated by their vendors for a single
* ISO-style 10/1000 us exponential pulse -- commonly quoted around
* 600 W peak, which integrates to well under 1 J for that pulse
* shape -- and for a steady-state power dissipation on the order
* of 1-3 W (typical across SMBJ-series datasheets, e.g.
* Littelfuse/Vishay/onsemi bins of this part; no specific
* manufacturer part number has been chosen yet, so this is a class
* figure, not a pulled datasheet number). 46.4 J is roughly two
* orders of magnitude past a plausible single-pulse energy rating,
* and 116 W is roughly two orders of magnitude past the continuous
* dissipation rating. The part does not survive this pulse. That
* conclusion does not depend on exactly which SMBJ-series
* datasheet number is used -- the gap is too large.
*
* This is the correct failure mode to have found: a TVS sized
* against pulse 2a's peak voltage was never sized against pulse
* 5b's energy, because nothing before this block asked the energy
* question.
*
* THE VERDICT HINGES ON ONE INEQUALITY -- Us* vs the TVS breakdown.
* Checked by re-running this netlist at Us* = 35 V, the figure most
* commonly quoted for a 12 V suppressed dump:
*
*     Us* = 40 V  ->  v(bat) 38.1 V, TVS 3.04 A,  46.4 J   FAIL
*     Us* = 35 V  ->  v(bat) 34.7 V, TVS 0.000 A,  0.0 J   pass
*
* At 35 V the TVS never reaches its 36.7 V breakdown, conducts
* nothing, and there is no energy problem at all. The entire
* failure is created by choosing Us* = 40 V, which is above the
* part's breakdown -- and that 40 V came from this project's own
* spec, not from a measurement of this alternator. So the block
* does not show "an SMCJ43CA cannot survive a suppressed load
* dump". It shows something sharper:
*
*   A TVS whose standoff voltage sits BELOW the clamped load-dump
*   level is forced to conduct during a perfectly normal event,
*   and then has to absorb it.
*
* transient_clamp.cir's RESULT NOTE already predicted this in
* prose -- it warned against a lower-voltage TVS because it "would
* clamp during a legitimate suppressed load dump and have to
* absorb its energy". This block is that warning with numbers, and
* it shows 33 V standoff is ALREADY low enough to trigger it.
*
* That reframes the fix. The energy does not have to be absorbed:
* raise the standoff above the dump level (an SMBJ40CA/45CA-class
* part, standoff above Us*) and the TVS simply stays off through
* the dump, while the buck -- rated 100 V -- rides 40 V without
* complaint. That is a part-number change, not an active clamp.
* Energy absorption only becomes unavoidable under pulse 5a
* (unsuppressed, 65-87 V), where nothing downstream can ride it
* out. Which makes the alternator question in the header the
* single fork this whole stage's topology hangs on, not a caveat.
*
* The 5 A fuse drawn on the schematic does not rescue the failing
* case: 3.04 A is 0.6x its rating and it will not clear in 400 ms.
*
* What would actually work: a part whose energy rating is stated
* for hundreds-of-ms pulses, not microsecond ones. That points at
* an automotive load-dump-rated TVS (e.g. the AutoEfuse/TPSMB or
* SMCJ/5KP-class parts marketed explicitly "for ISO 7637-2 pulse
* 5" carry joule ratings in that range) or, more robustly, an
* active clamp: a crowbar SCR or a MOSFET-based clamp that
* diverts the fault current into a resistor or fuse sized for the
* energy, rather than a single junction dissipating it all. Either
* way, this needs a real datasheet and a re-run of this block
* against it -- not a bigger guess at the same topology.
*
* What this model does NOT cover:
*   - Pulse 5a (unsuppressed, 65-87 V) at all -- see the header.
*     If the alternator turns out not to be suppressed, this
*     entire block is testing the wrong pulse.
*   - The TVS's actual thermal transient response (junction
*     temperature rise vs. time). This check compares absorbed
*     energy against steady-state and single-pulse ratings as
*     bounds, which is enough to call a FAIL this far outside both,
*     but a real thermal model (junction-to-lead time constant)
*     would be needed to justify a PASS this close to either bound
*     -- moot here since neither bound is close.
*   - The exponential (vs. trapezoidal) real pulse shape, and fall
*     time, which are not in the standard's own numbers -- see the
*     header.
*   - Whatever fuse or wiring impedance sits between the alternator
*     and this board in the real harness, which this block folds
*     into the single Ri = 0.5 ohm source impedance.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- tolerance, second parameter (Ri)
* ------------------------------------------------------------
* The Us*-vs-breakdown finding above is the first binding parameter.
* Ri (source impedance) is the second: the header already picked
* 0.5 ohm as the low end of the standard's 0.5-4 ohm range because
* lower Ri means more fault current for the same clamped voltage --
* worst case for energy. That reasoning was never checked against
* the rest of the range until now. Re-ran at Ri = 0.5 / 2.0 / 4.0
* ohm (the standard's full span) in scratch copies, not this file,
* matching the 2026-09-18 review's F3 countercheck:
*
*     Ri = 0.5 ohm (chosen)  energy 46.44 J  avg power 115.9 W  FAILS both bounds
*     Ri = 2.0 ohm           energy  9.78 J  avg power  24.4 W  FAILS both bounds
*     Ri = 4.0 ohm (top)     energy  0.655 J  avg power   1.64 W  energy FAILS (0.5 J bound), power PASSES (3 W bound)
*
* Energy stays above the ~0.5 J single-pulse rating across the
* ENTIRE standard range, not just at the chosen 0.5 ohm -- even the
* least pessimistic end of the standard's own window (Ri = 4 ohm,
* which a real installation is just as entitled to have as 0.5 ohm)
* still exceeds the bound, by 31%. Average power, by contrast, DOES
* clear its 3 W bound by Ri = 4 ohm -- so the two checks are not
* equally robust across the range, and it is the energy check that
* is carrying this block's FAIL at the top end, not the power check.
*
* This is the same shape as load_dump's own Us* finding turned on
* the other parameter: the choice of Ri = 0.5 ohm was reasoned about
* correctly (worst case for energy) but never verified against the
* rest of the range until this pass. Now it has been, and the
* verdict does not depend on having picked the pessimistic end --
* the FAIL holds across the whole 0.5-4 ohm range the standard
* allows, which is a stronger claim than "FAILS at the corner we
* chose." Nothing to fix here; this strengthens the existing
* conclusion rather than changing it.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- temperature, and why this is the sharpest corner
* in the whole simulation pass
* ------------------------------------------------------------
* This block already established that its verdict hinges on ONE
* inequality (Us* = 40 V vs. TVS breakdown ~36.7 V) and that a 0.7%
* change in clamp voltage moved absorbed energy 18%. Temperature
* moves breakdown voltage directly. This is therefore the single
* most temperature-sensitive check in the whole pass, and it deserves
* more care than a two-line note.
*
* Same method as transient_clamp.cir's TEMPERATURE section: ngspice's
* `option temp=` barely moves this TVSJ model (no TBV1 set), so BV is
* varied explicitly in scratch copies, not this file, using
* BV(T) = BV25 * (1 + tempco*(T-25)) with tempco INFERRED at
* 0.1%/C (class-typical for SMB TVS, no SMCJ43CA datasheet tempco
* pulled this session -- see transient_clamp.cir for the same
* caveat). Same pulse shape, Ri=0.5 ohm, Us*=40 V, td=400 ms
* throughout -- only BV changes:
*
*     -40 C (BV=33.66, -0.1%/C x 65 C)
*         v(bat)=37.04 V   ipeak=5.18 A   energy=76.93 J
*         WORSE than nominal -- energy roughly DOUBLES. Still FAILS,
*         by more, not less.
*     27 C  (BV=36.0, nominal, already established)
*         v(bat)=38.37 V   ipeak=2.48 A   energy=38.17 J   FAILS
*     +125 C (BV=39.60, +0.1%/C x 100 C)
*         v(bat)=39.60 V   ipeak=0.00 A   energy=0.00 J
*         The TVS never turns on. Breakdown (39.6 V equiv., ~40.3 V
*         total device) has moved ABOVE Us*=40 V, so this corner
*         would PASS the energy check outright.
*
* THIS IS NOT A "THE DESIGN IS FINE AT 125 C" FINDING. It is the
* opposite: it shows the FAIL/PASS line sits on a knife edge that
* moves with a tempco figure that is INFERRED, not sourced from any
* SMCJ43CA datasheet. Swept the tempco itself, holding T=+125 C, to
* see how much of the class-typical range (0.06-0.14%/C) it takes to
* cross that edge:
*
*     0.06%/C (BV=38.16)   energy=2.90 J   still FAILS the ~0.5 J bound (5.8x over)
*     0.10%/C (BV=39.60)   energy=0.00 J   PASSES (no conduction)
*
* So: across the INFERRED-but-plausible tempco range, +125 C reduces
* absorbed energy by somewhere between 13x and total elimination,
* while -40 C roughly doubles it. The cold-corner conclusion is
* robust (FAILS harder, no tempco assumption needed to see that
* direction). The hot-corner conclusion is NOT robust -- whether it
* fails-by-a-lot or doesn't fail at all depends on a number nobody
* has pulled from a real datasheet yet, for a design that is already
* known (Us* itself is INFERRED, see the header) to be sitting right
* on top of this same TVS's breakdown voltage by construction.
*
* ESCALATE: do not read the hot corner as evidence this design
* survives pulse 5b at high ambient. The right conclusion is the
* same one the rest of this file already reached, now reinforced --
* raise the TVS standoff above Us* so the part stays off across the
* WHOLE temperature range, rather than off only when ambient happens
* to be hot enough that an unsourced tempco pushes breakdown above an
* unsourced clamp figure. Two unknowns landing on the same side of a
* knife edge is not a design margin.
* ------------------------------------------------------------
